US04663341
In a 50 ml round bottomed flask was placed 0.45 g of 60% sodium hydride (0.011 mole). The sodium hydride was washed twice with hexane and suspended in 15 ml of tetrahydrofuran. A solution of 2.0 g (0.005 mole) of N,3-bis-(4-chlorophenyl)-4-dimethylcarbamoyl-4-methyl-4,5-dihydro-1H-pyrazole-1-carboxamide in 5 ml of tetrahydrofuran was added slowly. When hydrogen evolution ceased, 1 ml of acetic anhydride was added and the mixture was stirred for 5 minutes. The reaction was partitioned between ethyl ether and brine, dried, concentrated, and chromatographed yielding 1.6 g of N,3-bis-(4-chlorophenyl)-4-dimethylcarbamoyl-4-methyl-N-acetyl-4,5-dihydro-1H-pyrazole-1-carboxamide, an oil. NMR and IR data were consistent with the structure.

reactant | sodium hydride | 0.011 mole, 0.45 g | [H-].[Na+]
reactant | N,3-bis-(4-chlorophenyl)-4-dimethylcarbamoyl-4-methyl-4,5-dihydro-1H-pyrazole-1-carboxamide | 0.005 mole, 2.0 g | ClC1=CC=C(C=C1)NC(=O)N1N=C(C(C1)(C)C(N(C)C)=O)C1=CC=C(C=C1)Cl | C20H20Cl2N4O2
reactant | hydrogen | [H][H] | H2
reactant | acetic anhydride | 1 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | N,3-bis-(4-chlorophenyl)-4-dimethylcarbamoyl-4-methyl-N-acetyl-4,5-dihydro-1H-pyrazole-1-carboxamide | 1.6 g | ClC1=CC=C(C=C1)N(C(=O)N1N=C(C(C1)(C)C(N(C)C)=O)C1=CC=C(C=C1)Cl)C(C)=O | C22H22Cl2N4O3
